US08119627B2
Preparation of N-[2-(4-chlorophenoxy)phenyl]-3-acetamido-3-phenylpropanamide STX1858 C23H21ClN2O3, MW: 408.88
To a pre-stirred solution of N-acetyl-3-phenyl-β-alanine (104 mg, 0.50 mmol), EDC (265 mg, 1.38 mmol), triethylamine (70 mg, 0.69 mmol) and DMAP (6 mg, 0.046 mmol) in anhydrous DCM (25 ml), was added 2-(4-chlorophenoxy)phenylamine (100 mg, 0.46 mmol). This mixture was then allowed to stir at room temperature for 14 h. The reaction mixture was washed with 2.5M NaOH (20 ml), 2M HCl (20 ml) and the organics were then dried (MgSO4), filtered and concentrated in vacuo. Purification by flash chromatography (eluant; DCM to 9:1 DCM:MeOH) then proceeded to afford the desired product as an off-white solid (58.9 mg, 31%). 1H NMR (270 MHz, CDCl3): δ 2.03 (3H, s, CH3), 2.83-2.99 (2H, m, CH2), 5.30-5.40 (1H, m, CH), 6.73-6.77 (1H, dd, J=1.5, 8.2 Hz, Ar—H), 6.83-6.86 (2H, m, Ar—H), 6.95-7.03 (1H, td, J=1.7, 7.9 Hz, Ar—H), 7.05-7.11 (1H, td, J=1.7, 7.9 Hz, Ar—H), 7.19-7.30 (7H, m, Ar—H), 7.60 (1H, br s, Ar—H), 8.22-8.25 ppm (1H, dd, J=1.5, 8.0 Hz, Ar—H). LCMS: M+H, 409.44 HPLC: 98.66% (2.268 mins, isocratic 90% acetonitrile, 10% water at 1 ml/min).

reactant | N-acetyl-3-phenyl-β-alanine | 0.50 mmol, 104 mg | C(C)(=O)NC(CC(=O)O)C1=CC=CC=C1 | C11H13NO3
reactant | EDC | 1.38 mmol, 265 mg
reactant | triethylamine | 0.69 mmol, 70 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenoxy)phenylamine | 0.46 mmol, 100 mg | ClC1=CC=C(OC2=C(C=CC=C2)N)C=C1 | C12H10ClNO
catalyst | DMAP | 0.046 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(4-chlorophenoxy)phenyl]-3-acetamido-3-phenylpropanamide | 58.9 mg, 31% | ClC1=CC=C(OC2=C(C=CC=C2)NC(CC(C2=CC=CC=C2)NC(C)=O)=O)C=C1 | C23H21ClN2O3
